US07608621B2
N-{[2-(1,3-Benzothiazol-2-ylmethyl)-5-hydroxy-6-(1-methylethyl)-3-oxo-2,3-dihydro-4-pyridazinyl]carbonyl}glycine
Ethyl 2-(1,3-benzothiazol-2-ylmethyl)-5-hydroxy-6-(1-methylethyl)-3-oxo-2,3-dihydro-4-pyridazinecarboxylate. Sodium hydride (53 mg, 1.326 mmol) was added to a solution of the compound from example 14a) (120 mg, 0.530 mmol) in N,N-Dimethylformamide (DMF) (3 ml) at 0° C. The reaction was brought to room temperature and stirred for 40 minutes. The temperature was then reduced to 0° C. and 2-(bromomethyl)-1,3-benzothiazole (112 mg, 0.491 mmol) was added. The reaction was brought to room temperature and stirred for 3 h followed by the addition of 1N HCl. The solution was diluted with EtOAc and H2O and the layers separated. The aqueous layer was backextracted with EtOAc several times. The combined organic layers were washed with Brine, dried (MgSO4), filtered and concentrated. The product was purified by column chromatography (SiO2, 35-60% EtOAc/Hexanes) to give the title compound as an orange oil (61 mg, 0.163 mmol, 31%). 1H NMR (400 MHz, DMSO-d6) δ ppm 12.48 (s, 1H) 8.05-8.11 (m, 1H) 7.97-8.02 (m, 1H) 7.52 (ddd, J=8.21, 7.20, 1.26 Hz, 1H) 7.44 (td, J=7.58, 1.26 Hz, 1H) 5.59 (s, 2H) 4.27 (q, J=7.07 Hz, 2H) 3.20 (sept, J=6.82 Hz, 1H) 1.26 (t, J=7.20 Hz, 3H) 1.19 (d, J=6.82 Hz, 6H).

reactant | Ethyl 2-(1,3-benzothiazol-2-ylmethyl)-5-hydroxy-6-(1-methylethyl)-3-oxo-2,3-dihydro-4-pyridazinecarboxylate | S1C(=NC2=C1C=CC=C2)CN2N=C(C(=C(C2=O)C(=O)OCC)O)C(C)C | C18H19N3O4S
reactant | Sodium hydride | 1.326 mmol, 53 mg | [H-].[Na+]
reactant | 2-(bromomethyl)-1,3-benzothiazole | 0.491 mmol, 112 mg | BrCC=1SC2=C(N1)C=CC=C2 | C8H6BrNS
reactant | HCl | 1N | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | N,N-Dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
product | N-{[2-(1,3-Benzothiazol-2-ylmethyl)-5-hydroxy-6-(1-methylethyl)-3-oxo-2,3-dihydro-4-pyridazinyl]carbonyl}glycine | 0.163 mmol, 61 mg, 31% | S1C(=NC2=C1C=CC=C2)CN2N=C(C(=C(C2=O)C(=O)NCC(=O)O)O)C(C)C | C18H18N4O5S
